US06806274B1
1-(2,6-dichlorophenyl)-3-[6-methoxy-7-(6-methylamino-1-hexynyl)quinazolin-4-yl]urea
A mixture of 1-(2,6-dichlorophenyl)-3-{7-[6-(N-tert-butoxycarbonylamino-N-methylamino)-1-hexynyl]-6-methoxyquinazolin-4-yl}urea (0.1 g), trifluoroacetic acid (1 ml) and methylene chloride (1 ml) was stirred at ambient temperature for 1.5 hours. The mixture was evaporated and a solution of hydrogen chloride gas in ethyl acetate was added. Toluene was added and the mixture was evaporated. The residue was triturated under diethyl ether and the resultant solid was isolated. There was thus obtained the title compound as the hydrochloride salt (0.095 g); NMR Spectrum: (DMSOd6) 1.65 (m, 2H), 1.78 (m, 2H), 2.55 (m, 5H), 2.95 (m, 2H), 4.0 (s, 3H), 7.38 (t, 1H), 7.6 (d, 2H), 7.89 (s, 1H), 8.16 (s, 1H), 8.7 (m, 3H), 10.9 (br, 1H), 11.8 (s, 1H); Mass Spectrum: M+H+ 472 and 474.

reactant | 1-(2,6-dichlorophenyl)-3-{7-[6-(N-tert-butoxycarbonylamino-N-methylamino)-1-hexynyl]-6-methoxyquinazolin-4-yl}urea | 0.1 g | ClC1=C(C(=CC=C1)Cl)NC(=O)NC1=NC=NC2=CC(=C(C=C12)OC)C#CCCCCN(C)NC(=O)OC(C)(C)C | C28H32Cl2N6O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,6-dichlorophenyl)-3-[6-methoxy-7-(6-methylamino-1-hexynyl)quinazolin-4-yl]urea | ClC1=C(C(=CC=C1)Cl)NC(=O)NC1=NC=NC2=CC(=C(C=C12)OC)C#CCCCCNC | C23H23Cl2N5O2
